US05917053
5-acetamido-2-methyl-6-nitro-8-phenyl-1,2,3,4-tetrahydro-isoquinoline mp. 214-217° C.
2-methyl-5-phenyl-8-nitro-1,2,3,4-tetrahydro-isoquinoline mp 75-78° C. from reaction between phenyl boronic acid and 5-bromo-2-methyl-8-nitro-1,2,3,4-tetrahydro-isoquinoline. 2-methyl-5-(4-chlorophenyl)-8-nitro-1,2,3,4-tetrahydro-isoquinoline mp 162-163° C.

reactant | 2-methyl-5-phenyl-8-nitro-1,2,3,4-tetrahydro-isoquinoline | CN1CC2=C(C=CC(=C2CC1)C1=CC=CC=C1)[N+](=O)[O-] | C16H16N2O2
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 5-bromo-2-methyl-8-nitro-1,2,3,4-tetrahydro-isoquinoline | BrC1=C2CCN(CC2=C(C=C1)[N+](=O)[O-])C | C10H11BrN2O2
reactant | 2-methyl-5-(4-chlorophenyl)-8-nitro-1,2,3,4-tetrahydro-isoquinoline | CN1CC2=C(C=CC(=C2CC1)C1=CC=C(C=C1)Cl)[N+](=O)[O-] | C16H15ClN2O2
product | 5-acetamido-2-methyl-6-nitro-8-phenyl-1,2,3,4-tetrahydro-isoquinoline | C(C)(=O)NC1=C2CCN(CC2=C(C=C1[N+](=O)[O-])C1=CC=CC=C1)C | C18H19N3O3
